Name:  ___.                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Erythromycin Base
 
Attending: ___.
 
Chief Complaint:
dysphagia
 
Major Surgical or Invasive Procedure:
EGD
 
History of Present Illness:
___ w/prior Schatzki ring requiring dilation presents with 
dysphagia. Pt reports dilation ___ ago. Did well until a few 
weeks ago when he began to notice that he wasn't sure if food 
was going to stay down when he ate. Last night about an hour 
after eating pt tried to drink water but was unable to keep it 
down. Denies nausea, emesis, odynophagia, abd pain, or reflux 
symptoms.

In ED pt underwent Barium swallow which was consistent with food 
impaction. GI was consulted and pt went directly to GI suite and 
had EGD where food bolus was removed from esophagus.

On arrival to the floor pt reports feeling well. No complaints.

ROS: +as above, otherwise reviewed and negative

 
Past Medical History:
Childhood asthma
Schatzki ring

 
Social History:
___
Family History:
No GI malignancy
 
Physical Exam:
ADMISSION
Vitals: T:97.4 BP:143/80 P:44 R:18 O2:98%ra  
PAIN: 0
General: nad
EYES: anicteric
Lungs: clear
CV: rrr no m/r/g
Abdomen: bowel sounds present, soft, nt/nd
Ext: no e/c/c
Skin: no rash
Neuro: alert, follows commands

DISCHARGE
Vitals: T:98.1 BP:136/80 P:71 R:18 O2:98%ra  
PAIN: 1
General: nad
EYES: anicteric
Lungs: clear
CV: rrr no m/r/g
Abdomen: bowel sounds present, soft, nt/nd
Ext: no e/c/c
Skin: no rash
Neuro: alert, follows commands
 
Pertinent Results:
___ 08:26AM   GLUCOSE-95 UREA N-12 CREAT-0.7 SODIUM-141 
POTASSIUM-4.3 CHLORIDE-107 TOTAL CO2-25 ANION GAP-13
___ 08:26AM   WBC-5.1 RBC-4.88 HGB-14.7 HCT-42.8 MCV-88 
MCH-30.1 MCHC-34.3 RDW-12.6 RDWSD-40.0
___ 08:26AM   NEUTS-47.4 ___ MONOS-11.4 EOS-8.2* 
BASOS-1.2* IM ___ AbsNeut-2.42 AbsLymp-1.60 AbsMono-0.58 
AbsEos-0.42 AbsBaso-0.06
___ 08:26AM   PLT COUNT-231
___ 08:26AM   ___ PTT-26.4 ___

Barium Esophogram IMPRESSION:  
Acute esophageal obstruction in the mid esophagus, likely due to 
an impacted food bolus. 

EGD Impression: Esophageal stricture
There was barium throughout the esophagus and stomach limiting 
view of the mucosa. There was what appeared to be area abnormal 
appearing mucosa at 30. This may be related to the food bolus or 
ibuprofen however visualization was suboptimal due to barium. 
(biopsy)
Mild erythema in the stomach compatible with gastritis
Mild erythema in the duodenal bulb compatible with duodenitis
Otherwise normal EGD to third part of the duodenum 

Recommendations: Admit to hospital 
Keep NPO for now 
IV PPI BID 
follow up biopsy results 
will need repeat EGD for further evaluation 

 
Brief Hospital Course:
ASSESSMENT AND PLAN: ___ w/prior Schatzki ring requiring 
dilation presents with dysphagia due to a food impaction. Now 
s/p EGD with removal of food bolus. Also found to have 
esophageal spasm, esophageal stricture, esophagitis, gastritis 
and duodenitis. Pt started on IV PPI BID and kept NPO overnight. 
On day of discharge pt's diet was advanced to a dysphagia soft 
diet without difficulty. He will need repeat EGD for stricture 
dilation to be scheduled within 1 week.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ibuprofen 400 mg PO Q8H:PRN pain 

 
Discharge Medications:
1. Pantoprazole 40 mg PO Q12H 
may substitute equivalent PPI covered by insurance. 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Food Impaction
Esophageal Stricture
Esophagitis
Gastritis
Duodentitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for monitoring after a food impaction was 
removed from your esophagus. You will need to have another 
endoscopy in about a week to dilate an esophageal stricture to 
prevent this from happening again. Continue to stick to a diet 
of soft foods until you follow up with the GI doctors.
 
Followup Instructions:
___